US08231942B2
[Step 1] Synthesis of 9-(9,10-diphenyl-2-anthryl)-9H-carbazole (abbr: 2CzPA)
First, 1.5 g (3.7 mmol) of 2-bromo-9,10-diphenylanthracene, which was used in Step 1 of Synthesis Example 5, 610 mg (3.7 mmol) of 9H-carbazole, and 1.5 g (16 mmol) of sodium tert-butoxide were put into a 100 mL three-neck flask, and the air in the flask was replaced with nitrogen. 20 mL of toluene and 0.10 mL of tri(tert-butyl)phosphine (10 wt % hexane solution) were added to this mixture. This mixture was degassed while being stirred under reduced pressure, and after the degassing, 58 mg (0.10 mmol) of bis(dibenzylideneacetone)palladium(0) was added. This mixture was refluxed at 110° C. for 5 hours. After the reflux, this mixture was cooled to room temperature and about 20 mL of toluene was added to this mixture. The mixture was then filtered through alumina, Celite (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 531-16855), and Florisil (produced by Wako Pure Chemical Industries, Ltd., Catalog No. 540-00135). The obtained filtrate was concentrated to give a light-brown oily substance. This oily substance was purified by silica gel column chromatography (a developing solvent was a mixed solvent of hexane:toluene=6:4). The obtained light-yellow solid substance was recrystallized from ethanol, so that 1.7 g of a light-yellow powdered solid was obtained in a yield of 93%. At a pressure of 8.7 Pa and with an argon gas flowing at a flow rate of 3.0 mL/min, 1.6 g of the obtained light-yellow powdered solid substance was heated at 230° C. so as to be sublimated and purified (a train sublimation method). After the sublimation purification, 1.5 g of a light-yellow solid substance was recovered in a yield of 93%. A synthesis scheme of Step 1 is shown in (F-3) given below.

reactant | 2-bromo-9,10-diphenylanthracene | 3.7 mmol, 1.5 g | BrC1=CC2=C(C3=CC=CC=C3C(=C2C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H17Br
reactant | 9H-carbazole | 3.7 mmol, 610 mg | C1=CC=CC=2C3=CC=CC=C3NC12 | C12H9N
reactant | sodium tert-butoxide | 16 mmol, 1.5 g | CC(C)([O-])C.[Na+]
reactant | tri(tert-butyl)phosphine | 0.10 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.10 mmol, 58 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | toluene | about 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 9-(9,10-diphenyl-2-anthryl)-9H-carbazole | yield of 93% | C1(=CC=CC=C1)C=1C2=CC=CC=C2C(=C2C=CC(=CC12)N1C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C38H25N
